US04599344
2-[3-(4-Chloro-3-nitrophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride
In a manner similar to Example XXVI react 1-(4-chloro-3-nitrophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride in refluxing concentrated hydrochloric acid to afford the title compound.

reactant | 1-(4-chloro-3-nitrophenyl)-2-[(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)methyl]-1,3-butanedione hydrochloride | Cl.ClC1=C(C=C(C=C1)C(C(C(C)=O)CC1N2CCC(C1=O)CC2)=O)[N+](=O)[O-]
reactant | hydrochloric acid | Cl | ClH
product | 2-[3-(4-Chloro-3-nitrophenyl)-3-oxopropyl]-1-azabicyclo[2.2.2]octan-3-one hydrochloride | Cl.ClC1=C(C=C(C=C1)C(CCC1N2CCC(C1=O)CC2)=O)[N+](=O)[O-] | InChI=1S/C16H17ClN2O4.ClH/c17-12-2-1-11(9-14(12)19(22)23)15(20)4-3-13-16(21)10-5-7-18(13)8-6-10;/h1-2,9-10,13H,3-8H2;1H
